Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute on chronic abdominal pain, confusion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with EtOH cirrhosis complicated by ascites, SBP, HE, and 
HRS,s/p ___ gastric bypass c/b recurrent anastomotic 
strictures requiring multiple endoscopic dilations, and multiple 
abdominal surgeries for bowel anastomosis complications 
(including bowel perforation) who was recently admitted for 
acute on chronic abdominal pain with hospital course complicated 
by Klebsiella bacteremia, ___ dysfunction, ___ 
cellulitis and confusion. She currently ___ with 
recurrent acute on chronic abdominal pain and confusion. She is 
unable to describe how many days she has had worsening abdominal 
pain but does endorse confusion despite adherence to her 
lactulose at home. Patient denies fevers chest pain or shortness 
of breath and she is A&O x3 but with difficulty formulating 
sentences.  
 On arrival to the floor, patient corroborates the above story. 
She states that there has been no leaking from her new ___ 
and the site where her old ___ was placed continues to leak 
minimally into an overlying ostomy bag. She otherwise has no new 
complaints.  
 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy (___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy (___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications  

 
Social History:
___
Family History:
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or ___ emphysema  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VS: 98.2PO, 118/54, 90, 18, 94% RA  
___: NAD  
HEENT: AT/NC, EOMI, PERRL, mildly icteric sclera, pink 
conjunctiva, MMM with white plaques over her tongue  
HEART: RRR, normal S1/S2, ___ early systolic murmur best heard 
at LSB, no JVD.  
LUNGS: fine bibasilar crackles, no wheezes, breathing 
comfortably without use of accessory muscles  
ABDOMEN: obese and firm, very tender to light palpation, 
hyperactive bowel sounds, unable to appreciate 
hepatosplenomegaly  
EXTREMITIES: ___ pitting edema bilaterally  
NEURO: A&Ox3 but confused with word finding difficulty, moving 
all 4 extremities with purpose  
SKIN: well healed abdominal scars, erythematous groin rash with 
satellite lesions and skin breakdown in fold of groin and under 
panus.  

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.5 PO 105 / 63 88 18 94 RA
GEN: Pleasant ___ woman, lying down in bed, appears
comfortable, in no acute distress
HEENT: Mild scleral icterus, OP clear
CV: RRR, ___ flow murmur best heard at the RUSB, normal S1/S2, 
no
rubs, gallops, or thrills 
RESP: CTAB, no w/r/r, good inspiratory effort
ABD: Soft, mildly tender to palpation throughout. ___ in
place. Dressing clean and dry over old ___ site.  
EXT: Warm and ___, 2+ pitting edema bilaterally to the
knees. Left ankle mobility limited due to surgical hardware. No
clubbing or cyanosis.
NEURO: A&Ox3; no asterixis, moving all 4 extremities with 
purpose

 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:50PM BLOOD ___ 
___ Plt ___
___ 03:50PM BLOOD ___ 
___ Im ___ 
___
___ 03:50PM BLOOD ___ ___
___ 03:50PM BLOOD ___ 
___
___ 03:50PM BLOOD ___
___ 03:50PM BLOOD cTropnT-<0.01
___ 03:50PM BLOOD ___ 
___
___ 03:50PM BLOOD ___
___ 03:50PM BLOOD ___ 
___
___ 05:35PM BLOOD ___ 
___ Base ___
___ 04:14PM BLOOD ___
___ 05:35PM BLOOD O2 ___

INTERVAL LABS:
================

___ 03:02PM BLOOD Ret ___ Abs ___
___ 03:02PM BLOOD ___ 
___
___ 06:46AM BLOOD Folate->20
___ 04:53AM BLOOD ___

Test                          Result              Reference 
Range/Units
VITAMIN D, 1,25 (OH)2, TOTAL  <8  L               ___ pg/mL
VITAMIN D3, 1,25 (OH)2        <8                  pg/mL
VITAMIN D2, 1,25 (OH)2        <8                  pg/mL

 
Test                          Result              Reference 
Range/Units
ZINC                          37  L               ___ mcg/dL

 
Test                          Result              Reference 
Range/Units
COPPER                        67  L               ___ mcg/dL

 
Test                          Result              Reference 
Range/Units
___                        29  H               ___ pg/mL

 
Test                          Result              Reference 
Range/Units
___                        25                  ___ pg/mL

IMAGING:
==========
___ CT HEAD: 
1. No acute intracranial abnormality within confines of 
noncontrast head CT.  Specifically no large territory infarct or 
intracranial hemorrhage. 
2. Given the patient's clinical history, MRI would be more 
sensitive for 
subtle findings of encephalopathy, if there are no 
contraindications. 

___ ECHO:
The left atrial volume index is severely increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is mildly 
dilated. Regional left ventricular wall motion is normal. 
Overall left ventricular systolic function is normal 
(Quantitative (biplane) LVEF = 64 %). There is no ventricular 
septal defect. The right ventricular cavity is mildly dilated 
with normal free wall contractility. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. There is mild to moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 
IMPRESSION: Mild to moderate pulmonary hypertension. Mild 
biventricular cavity dilation with normal function. Increased 
right atrial pressure. 

___ CT Chest w Contrast
IMPRESSION:
-Several new lung nodules associated with new mediastinal 
lymphadenopathy
could represent -  1. lymphoma,  2.  metastatic disease or less 
probably 3. 
septic emboli.
-Small pleural effusions on a background of mild pulmonary 
edema.
 

DISCHARGE LABS:
===============

___ 06:11AM BLOOD ___ 
___ Plt ___
___ 06:11AM BLOOD ___ ___
___ 06:11AM BLOOD ___ 
___
___ 06:11AM BLOOD ___
___ 06:11AM BLOOD ___
___ 06:40AM BLOOD ___ TOP
___ 06:40AM BLOOD ___

 
Brief Hospital Course:
Ms. ___ is a lovely ___ year old woman with EtOH cirrhosis 
complicated by ascites, SBP, HE, and HRS,s/p ___ gastric 
bypass with multiple complications including recurrent 
anastomotic strictures, bowel perforation, s/p Klebsiella 
bacteremia, who presented with abdominal pain, confusion, ___ 
and hypercalcemia of unknown etiology. Hypercalcemia and ___ 
were treated with fluids and calcitonin with improvement in 
mental status. Course was complicated by hypoxemia in setting of 
fluid administration for ___. Chest CT was done out of concern 
for malignancy which revealed small nodules and hilar 
lymphadenopathy on Chest CT. Pulmonary was consulted and 
recommended repeat CT scan in ___ weeks, and felt that nodules 
were likely infectious.

ACTIVE ISSUES:
==============
#Confusion: RESOLVED
The etiology of her confusion was felt to be hypercalcemia in 
the setting of malabsorption and renal dysfunction from ___. 
Hepatic encephalopathy was less likely given regular bowel 
movements, though she continues to be at risk of hyperammonemia 
given decompensated liver failure with gastric motility issues. 
Her neuro exam was without focal deficits and her head CT was 
negative. She was treated for hypercalcemia with calcitonin. She 
received delirium precautions and frequent reorientation, as 
well as Lactulose QID goal ___ BM per day. 

# ___: RESOLVED
Patient was believed to be in a ___ azotemima in the 
setting of poor PO intake due to confusion. Her creatinine on 
admission was 1.1 from her baseline of 0.5. It improved to 0.9 
with fluids and treatment of hypercalcemia. She then became 
fluid overloaded and was subsequently diuresed with Lasix as 
above. Her creatinine continued to downtrend back to her 
baseline, and was 0.6 at discharge. 

#s/p Hypercalcemia
#Hyperreflexia
#Concern for malignancy
Her hypercalcemia continued to be of undetermined etiology: most 
likely malignancy vs poor PO intake and immobility. Her calcium 
level was elevated to 13.2 (corrected for hypoalbuminemia) on 
admission, new from prior discharge (highest level appears to be 
around 10). iCal was also elevated at 1.46. She had elevated 
lambda and kappa chains, but with a normal ratio, which is less 
consistent with a plasma cell dyscrasia. Additionally, her blood 
smear was without any evidence of malignancy. Her 1,25 vit D was 
normal, and normal SPEP. Calcium downtrended to normal with 
initiation of calcitonin treatment per Endocrine (Calcitonin 
4u/kg for 400u BID). Her CT chest showed small nodules as above, 
concerning for malignancy vs infection, which will be followed 
up on CT by pulmonology in ___ weeks. She was given Vitamin D 
supplementation 2000u daily in the setting of Vit D deficiency. 
Her home dose of metoclopramide was decreased from 10 mg to 5mg, 
as metoclopramide could cause hyperreflexia.

#Hypoxia and pulmonary edema: RESOLVED
Patient developed orthopnea and hypoxia in the setting of 
receiving albumin infusion for ___ and hypercalcemia. Her CXR 
showed pulmonary edema. She was briefly placed on supplemental 
O2, then weaned back to RA. Tachypnea improved with IV diuresis. 
Discharged on Torsemide 60mg daily.

#EtOH cirrhosis 
#Coagulopathy 
#Volume Overload
Childs C, ___ 22 on admission. EtOH cirrhosis c/b ascites, 
HE, SBP, and HRS. No varices on last EGD in ___. No signs of 
HE. Patient reports adherence to lactulose at home. At her last 
hospitalization, patient was seen by palliative care and chose 
to continue aggressive medical management at this time. Patient 
is not a transplant candidate at this time due to complex 
medical conditions. This hospitalization, she was given TPN via 
PICC for nutrition. Her Midodrine 10 mg PO TID was continued. 
Also continued Lactulose 30 mL PO QOD, Rifaximin 550 mg PO BID 
with goal ___ BMs/day, Ciprofloxacin 500mg daily for SBP ppx, 
Folic Acid 1 mg, MVM 1 TAB, Thiamine 100 mg, Vit D. She was 
diuresed with IV Lasix this admission, and transitioned back to 
Torsemide for maintenance. Her discharge regimen was Torsemide 
60mg today and Spironolactone 50mg daily.

#Pancytopenia 
#Coagulopathy
Patient is pancytopenic, likely secondary to liver disease, 
alcohol marrow suppression, poor nutrition, and chronic illness. 
She has no evidence of active bleed at this time. WBC was 
elevated on admission relative to baseline, but her infectious 
work up was negative. She received IV Vit ___ ___. She was 
transfused blood on ___.

# Abdominal pain, chronic
Patient presented with acute worsening of chronic abdominal 
pain, now stable. CT abd/pelv showed no evidence of acute 
obstruction, showed ___ appropriately positioned, and 
evidence for ileus. No evidence infection. ___ site appeared 
clean and ___. She had no significant ascites for 
diagnostic paracentesis. C. diff negative, UCx contaminated. BCx 
NGTD. ___ remained in place, patient continued having bowel 
movements. Continued methylnaltrexone 12 mg Subcut DAILY, 
Metoclopramide 10 mg PO Q6H, Simethicone ___ mg PO QID:PRN for 
gas pain, TraMADol 100 mg PO BID, Dilaudid 2 mg PO q6h prn, 
given AMS. Her bowel regimen was continued as well: Bisacodyl 10 
mg, Polyethylene Glycol, Lactulose 30 mL Q6H

# ___
# ___ site cellulitis
# Malnutrition
She is TPN dependent given inability to tolerate full PO or full 
tube feed goals. She is s/p replacement and upsizing of her 
___ by ___ on her last admission. ___ was removed after 
discussion with consulting services on last admission, now with 
minimal drainage into a gauze bandage over the site. She has a 
PICC and she continued TPN with the hope of using her ___ in 
the future if tolerated. Nutrition followed her during this 
admission. She was discharged home with ___ for TPN.

#Hyponatremia: RESOLVED
She had hyponatremia on admission, likely secondary to liver 
disease, poor PO intake, and ___. Resolved s/p fluid 
resuscitation. 

#Chronic illness
#Chronic pain
Patient with severe and chronic pain, poor quality of life, and 
recurrent hospitalizations. Palliative Care saw patient and 
discussed goals with her. She wants aggressive medical 
management of her conditions to give her the best chance to 
live. 

#Thrush
#Intertriginous candidiasis 
Continued Nystatin Oral suspension TID and miconazole cream for 
groin itching.

#Depression/anxiety: 
Continued home escitalopram 20 mg daily.

#Seizures: 
Continued Levetiracetam 1000mg PO BID.

TRANSITIONAL ISSUES:
====================
[ ] ___ + albumin and ionized calcium in ___ days (can be 
done at follow up appointment).
[ ] Follow up CT scan in ___ weeks (___).
[ ] Decreased the dose of metoclopramide in the setting of 
hyperreflexia, please ___ at next appointment. If 
worsening PO/mobility, can increase metoclopramide back to prior 
to admission dose.
[ ] Discharge with ___ for home TPN.

DISCHARGE STATS
-Discharge Weight: 107 kg
-Discharge Creatinine: 0.6

NEW MEDS:
- Vitamin D ___ UNIT PO 1X/WEEK (MO)

CHANGED MEDS:
- Torsemide 60mg PO daily (down from 80mg)
- Spirinolactone 50 mg PO daily (down from 200mg)
- Metoclopramide 5 mg Q6H (down from 10mg)
- Tramadol 50 mg PO BID (down from 100mg)

FOLLOW UP:
- PCP
- ___

# CODE: full code, confirmed
# CONTACT: Mother/Father: ___. Boyfriend ___.
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. Lactulose 30 mL PO Q6H 
5. LevETIRAcetam Oral Solution 1000 mg PO BID 
6. Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube 
7. Methylnaltrexone 12 mg Subcut DAILY 
8. Metoclopramide 10 mg PO Q6H 
9. Polyethylene Glycol 17 g PO DAILY 
10. Rifaximin 550 mg PO BID 
11. Senna 8.6 mg PO BID 
12. Simethicone ___ mg PO QID:PRN gas pain 
13. Spironolactone 200 mg PO DAILY 
14. TraMADol 100 mg PO BID 
15. FoLIC Acid 1 mg PO DAILY 
16. Multivitamins 1 TAB PO DAILY 
17. Thiamine 100 mg PO DAILY 
18. Torsemide 80 mg PO DAILY 
19. Ciprofloxacin HCl 500 mg PO DAILY 
20. Midodrine 10 mg PO TID 
21. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate 
22. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1.  Vitamin D ___ UNIT PO 1X/WEEK (MO) 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth on ___ Disp #*4 Capsule Refills:*0 
2.  Metoclopramide 5 mg PO Q6H 
RX *metoclopramide HCl 5 mg 1 tab by mouth every six (6) hours 
Disp #*120 Tablet Refills:*0 
3.  Spironolactone 50 mg PO DAILY 
RX *spironolactone 50 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
4.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
5.  TraMADol 50 mg PO BID  
6.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
7.  Bisacodyl 10 mg PO/PR DAILY  
8.  Ciprofloxacin HCl 500 mg PO DAILY  
9.  Escitalopram Oxalate 20 mg PO DAILY  
10.  FoLIC Acid 1 mg PO DAILY  
11.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate  
12.  Lactulose 30 mL PO Q6H  
13.  LevETIRAcetam Oral Solution 1000 mg PO BID  
14.  Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube  

15.  Methylnaltrexone 12 mg Subcut DAILY  
16.  Midodrine 10 mg PO TID  
17.  Multivitamins 1 TAB PO DAILY  
18.  Omeprazole 40 mg PO DAILY  
19.  Polyethylene Glycol 17 g PO DAILY  
20.  Rifaximin 550 mg PO BID  
21.  Senna 8.6 mg PO BID  
22.  Simethicone ___ mg PO QID:PRN gas pain  
23.  Thiamine 100 mg PO DAILY  
24.Outpatient Lab Work
Diagnosis: Cirrhosis K70.30
Lab: ___ + albumin + ionized calcium
Date: ___
Fax results to Dr. ___ 

25.TPN
Volume(ml/d) ___, Cycle over 18 hours.
Amino Acid (g/d) 105, Dextrose(g/d) 435, Fat(g/d) 60 
NaCL 300, NaAc 25, KCl 15, KPO4 55, MgS04 35, CaGluc 5. NaPO4 0, 
KAc 0.
Zinc 10 mg, Copper 1 mg, multivitamins.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Hypercalcemia
Toxic Metabolic Encephalopathy

SECONDARY DIAGNOSES
EtOH cirrhosis 
Obesity s/p ___ bypass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking part in your care here at ___!

Why was I admitted to the hospital?
- You were admitted for confusion, for acute injury to your 
kidneys, and for high levels of calcium.

What was done for me in the hospital?
- You were given a medicine called albumin to help your kidneys 
recover. 
- Your confusion was felt to be due to the high level of calcium 
in your body. We're not quite sure why it got so high. You were 
given a medicine to lower the amount of calcium in your body, 
and your confusion improved.
- You underwent testing to rule out reasons why you could be 
confused. 
- You developed some fluid in your lungs because of the extra 
water we gave you to help your kidneys. To help correct this, 
you were given oxygen and diuretics through the veins (to help 
you urinate out extra water). 
- You had a CT scan of your lungs to check for a cause of high 
Calcium, and were found to have several nodules. Pulmonary 
doctors have recommended that you have a repeat CT scan in ___ 
weeks to check in on these nodules and see if you need a biopsy 
or any further treatment. 

What should I do when I leave the hospital?
- Please attend all appointments as listed below.
- Please take all of your medicines as prescribed.
- Please try to limit the liquids you drink each day to 1.5L (50 
oz). This will help keep your legs from swelling up. 

When should I return to the hospital?
- Please return if your confusion comes back, if you have 
difficulty breathing, if your body becomes swollen with fluids, 
if you develop a fever or have chills, if you have severe 
abdominal pain, or any other symptom that concerns you. 

We wish you the best of luck in your health!

Sincerely,
Your ___ Treatment Team

 
Followup Instructions:
___